US04558134
2-(3,4-Dichlorophenoxy)-5-ethylthio-4-pyridinecarbonitrile
2-Chloro-5-ethylthio-4-pyridinecarbonitrile (4.0 g) was reacted with 3.6 g of 3,4-dichlorophenol in the presence of 2.6 g of t-BuOK in 40 ml of THF and 4 ml of DMSO. 5.5 g (84.6%) of the desired, 2-(3,4-dichlorophenoxy)-5-ethylthio-4-pyridinecarbonitrile was recovered, m.p. 68°-69° C.

reactant | 2-Chloro-5-ethylthio-4-pyridinecarbonitrile | 4.0 g | ClC1=NC=C(C(=C1)C#N)SCC | C8H7ClN2S
reactant | 3,4-dichlorophenol | 3.6 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | t-BuOK | 2.6 g | CC(C)(C)[O-].[K+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 2-(3,4-Dichlorophenoxy)-5-ethylthio-4-pyridinecarbonitrile | ClC=1C=C(OC2=NC=C(C(=C2)C#N)SCC)C=CC1Cl | C14H10Cl2N2OS
